US06777409B2
2-Ethoxy-3-[1-(2-chlorophenyl)-1-cyclopropyl]-acrylic acid ethyl ester
14.3 g of phosphonate in 40 ml of tetrahydrofuran is mixed at 0° C. with 29 ml of lithium diisopropylamide. It is stirred for 20 more minutes at 0° C. 9.7 g of 1-(2-chlorophenyl)-1-cyclopropane carbaldehyde in 40 ml of tetrahydrofuran is added in drops. After 24 hours at room temperature, it is mixed with water, extracted with ethyl acetate, ethyl acetate solution is washed with water and dried (Na2SO4). After concentration by evaporation, 15.5 g of the product is obtained.

reactant | phosphonate | 14.3 g | P([O-])([O-])=O
reactant | lithium diisopropylamide | 29 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(2-chlorophenyl)-1-cyclopropane carbaldehyde | 9.7 g | ClC1=C(C=CC=C1)C1(CC1)C=O | C10H9ClO
reactant | water | O | H2O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-Ethoxy-3-[1-(2-chlorophenyl)-1-cyclopropyl]-acrylic acid ethyl ester | 15.5 g | C(C)OC(C(=CC1(CC1)C1=C(C=CC=C1)Cl)OCC)=O | C16H19ClO3
